US08871774B2
Formation of 5-chloro-3-(5-fluoro-4-(methylthio)pyrimidin-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine (50)
A mixture of 2-chloro-5-fluoro-4-methylsulfanyl-pyrimidine (0.26 g, 1.44 mmol) and 5-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine, 33, (0.75 g, 1.44 mmol) and K3PO4 (0.96 g, 4.53 mmol) in water (1.5 mL) and 2-Me-THF (7.5 mL) was degassed with nitrogen bubbling for 15 min. Then, X-Phos (0.07 g, 0.14 mmol) and Pd2(dba)3 (0.03 g, 0.04 mmol) was added and the vessel was sealed and heated to 125° C. with microwave irradiation for 30 min. After cooling to room temperature, water was added and the mixture was extracted and with ether and 2-Me-THF. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Flash chromatography (SiO2, 0-100% EtOAc-hexanes, gradient elution) provided 230 mg of the desired product which was used without further purification: LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=3.46 min (M+H) 538.01.

reactant | 2-chloro-5-fluoro-4-methylsulfanyl-pyrimidine | 1.44 mmol, 0.26 g | ClC1=NC=C(C(=N1)SC)F | C5H4ClFN2S
reactant | 5-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine | ClC=1C=C2C(=NC1)N(N=C2B2OC(C(O2)(C)C)(C)C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H29BClN3O2
reactant | K3PO4 | 4.53 mmol, 0.96 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | X-Phos | 0.14 mmol, 0.07 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | water | 1.5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.04 mmol, 0.03 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-chloro-3-(5-fluoro-4-(methylthio)pyrimidin-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine | 230 mg | ClC=1C=C2C(=NC1)N(N=C2C2=NC=C(C(=N2)SC)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C30H21ClFN5S
